US06951879B2
According to the method in example 4, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and azetidine were converted to yield 6-(3-Azetidin-1-yl-propoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole, MS: 404 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | azetidine | N1CCC1 | C3H7N
product | 6-(3-Azetidin-1-yl-propoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | N1(CCC1)CCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C19H19BrN2OS
